US07745484B2
Step 3: 2-(1-(tert-butyldimethylsilyloxy)cyclopent-3-enyl)acetaldehyde
1-(2,2-dimethoxyethyl)cyclopent-3-enol (13.5 g, 78 mmol) was dissolved in DCM (250 mL). This was chilled to 0° C. under nitrogen and 2,4,6-trimethylpyridine (42 mL, 314 mmol) was added dropwise over 10 minutes. Tert-butyldimethylsilyl trifluoromethanesulfonate (18 mL, 78 mmol) was added dropwise via syringe very slowly over 20 minutes keeping the internal temperature below 5° C. The reaction was allowed to come to RT. By TLC (20% EtOAc/hexanes; KMnO4 stain), the starting material was completely consumed (˜2 hours). The reaction was then chilled back to 0° C. and triethylsilyl trifluoromethanesulfonate (35 mL, 157 mmol) was added in dropwise over a 10 minute period. This was allowed to stir at 0° C. for 1 hour before adding water (250 mL). The ice bath was removed and this mixture was stirred vigorously for ˜18 hours. The reaction was poured into a seperatory funnel and the DCM layer was separated. The organic was washed with dilute aqueous HCl, brine, dried over sodium sulfate, filtered and concentrated to afford a yellow oil which was flashed on silica by gradient eluting with hexanes to 20% EtOAc/hexanes over a 40 minute period. Product fractions were combined to afford the title compound.

reactant | 1-(2,2-dimethoxyethyl)cyclopent-3-enol | 78 mmol, 13.5 g | COC(CC1(CC=CC1)O)OC | C9H16O3
reactant | 2,4,6-trimethylpyridine | 314 mmol, 42 mL | CC1=NC(=CC(=C1)C)C | C8H11N
reactant | Tert-butyldimethylsilyl trifluoromethanesulfonate | 78 mmol, 18 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | triethylsilyl trifluoromethanesulfonate | 157 mmol, 35 mL | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | 250 mL | O | H2O
product | 2-(1-(tert-butyldimethylsilyloxy)cyclopent-3-enyl)acetaldehyde | [Si](C)(C)(C(C)(C)C)OC1(CC=CC1)CC=O | C13H24O2Si
